US04182762
1.9 pts. by wt. of 5-bromofurfural, 1.3 pts. by wt. of 1-amino-2,3-dioxo-piperazine and 7 pts. by vol. of glacial acetic acid were warmed to 90° for 10 minutes and then left for 30 minutes at RT. The precipitate is filtered off, washed with 3 pts. by vol. of glacial acetic acid and recrystallised from dimethylformamide, with the addition of animal charcoal. 1.1 pts. by wt. (38.5%) of 1-(5-bromofurfurylideneamino)-2,3-dioxo-piperazine are obtained as yellowish crystals of decomp. pt. 220°.

reactant | 5-bromofurfural | BrC1=CC=C(C=O)O1 | C5H3BrO2
reactant | 1-amino-2,3-dioxo-piperazine | NN1C(C(NCC1)=O)=O | C4H7N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(5-bromofurfurylideneamino)-2,3-dioxo-piperazine | 38.5% | BrC1=CC=C(C=NN2C(C(NCC2)=O)=O)O1 | C9H8BrN3O3
